US04200578
N-Cyano-N'-(2-propyn-1-yl)-N"-{2-[(thiazol-2-yl)methylthio]ethyl}guanidine (BL-6044)
A mixture of N-cyano-N'-{2-[(thiazol-2-yl)methylthio]ethyl}-S-methylisothiourea [prepared according to the procedure described in U.S. Pat. No. 3,950,333] (4.40 g, 16.1 mmole) and propargylamine (8.8 ml) in methanol (35 ml) was stirred and heated to reflux temperature under a positive pressure of nitrogen for 16 hours. The reaction mixture was evaporated under reduced pressure, the residue dissolved in warm isopropanol, and then cooled and filtered to yield 2.26 g of product. Recrystallization from isopropanol with Darco treatment gave the title compound; mp 137.5°-139.5°.

reactant | N-cyano-N'-{2-[(thiazol-2-yl)methylthio]ethyl}-S-methylisothiourea | C(#N)NC(SC)=NCCSCC=1SC=CN1 | C9H12N4S3
reactant | propargylamine | 8.8 ml | C(C#C)N | C3H5N
solvent | methanol | 35 ml | CO | CH4O
product | N-Cyano-N'-(2-propyn-1-yl)-N"-{2-[(thiazol-2-yl)methylthio]ethyl}guanidine | 2.26 g | C(#N)NC(=NCCSCC=1SC=CN1)NCC#C | C11H13N5S2
